US07056918B2
3-Methyl-1-phenyl-5-(3-pyrazin-2-yl-5-m-tolyl-1H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one
To a stirred solution of 3-Methyl-1-phenyl-5-(5-m-tolyl-1H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one (prepared as described previously in Example 200, 33 mg, 0.087 mmol) in DMF (0.1 mL) was added NaH (4 mg, 0.095 mmol). After stirring for 20 min, 2-chloropyrazine (9.3 mL, 0.10 μmol) was added and the reaction mixture was heated to 120° C. for 14 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was purified by LC (Waters Symmetry C8, formic acid/acetonitrile/water) to afford 2 mg of the title compound.

reactant | 3-Methyl-1-phenyl-5-(5-m-tolyl-1H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one | CN1C(N(C2=C1C=C(C=C2)C=2N=CNC2C=2C=C(C=CC2)C)C2=CC=CC=C2)=O | C24H20N4O
reactant | NaH | 0.095 mmol, 4 mg | [H-].[Na+]
reactant | 2-chloropyrazine | 0.10 μmol, 9.3 mL | ClC1=NC=CN=C1 | C4H3ClN2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 3-Methyl-1-phenyl-5-(3-pyrazin-2-yl-5-m-tolyl-1H-imidazol-4-yl)-1,3-dihydro-benzoimidazol-2-one | 2 mg | CN1C(N(C2=C1C=C(C=C2)C=2N(CNC2C=2C=C(C=CC2)C)C2=NC=CN=C2)C2=CC=CC=C2)=O | C28H24N6O
